US06723313B2
20.0 g (117 mmol) of a double-bond isomer mixture of ethyl 2,3,4-trimethylpent-2-enoate (synthesis: see example 1) were dissolved in 200 ml of ethyl acetate, treated with 0.50 g (0.26 mmol, 0.2 mol %) of 10 percent platinum on activated carbon, and hydrogenated at room temperature for 4 hours in an autoclave at a hydrogen atmosphere of 25 bar with vigorous stirring. The catalyst was separated off by filtering the reaction mixture with suction over Celite. After the solvent had been removed on a rotary evaporator, the mixture was distilled under reduced pressure over a 10 cm Widmer column, giving 16.9 g (83%) of colorless ethyl 2,3,4-trimethylvalerate at a boiling point of 105-108° C./100 mbar. These 16.9 g (98.1 mmol) were dissolved in 150 ml of ethanol/water (1:1) and 9.60 g (147 mmol) of 86 percent potassium hydroxide were added. The reaction mixture was refluxed for 2 hours and, after cooling, diluted with 500 ml of water and adjusted to pH 1 with hydrochloric acid. The aqueous phase was extracted three times with ether, and the combined organic phases were dried over sodium sulfate and evaporated on a rotary evaporator. This gave 14.3 g of crude 2,3,4-trimethylvaleric acid which was dissolved in 250 ml of dry tetrahydrofuran. At −10° C., 9.8 ml (98 mmol) of 10 M butyllithium solution in hexane were added dropwise. After the mixture had been stirred for 40 minutes at −10° C., 123 ml (98 mmol) of 0.8 M propenyllithium solution in ether were slowly added dropwise at this temperature. After stirring for 4 hours at 30° C., the mixture was cooled to −10° C., and 16 ml (218 mmol) of acetone were added dropwise at this temperature. After the mixture had been stirred for a further 10 minutes at −10° C., 200 ml of saturated ammonium chloride solution were added dropwise at this temperature. The cooling was removed and the reaction mixture was diluted with 200 ml of water. The aqueous phase was extracted three times with ether, and the combined organic extracts were dried over magnesium sulfate and evaporated on a rotary evaporator. Flash chromatography (pentane/ether, 19:1, Rf=0.24) over silica gel gave 6.50 g (39%) of (2E)-5,6,7-trimethyloct-2-en-4-one as a colorless liquid with a pleasant odor.

reactant | potassium hydroxide | 147 mmol, 9.60 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | butyllithium | 98 mmol, 10 M, 9.8 ml | C(CCC)[Li]
reactant | propenyllithium | 98 mmol, 0.8 M, 123 ml | C(=CC)[Li]
reactant | acetone | 218 mmol, 16 ml | CC(=O)C | C3H6O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
reactant | ethanol water | 150 ml | C(C)O.O
solvent | water | 500 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | (2E)-5,6,7-trimethyloct-2-en-4-one | 6.50 g, 39% | CC(C(/C=C/C)=O)C(C(C)C)C | C11H20O
